US05591891
Using the procedure described in Example 60, but starting with 2-acetylthiomethyl-3-phenylbutanoic acid and norleucine benzyl ester, and after purifying by chromatography, eluting with a hexane/ethyl acetate (75:25 by volume) mixture, N-(2-acetylthiomethyl-1-oxo-3-phenylbutyl)norleucine benzyl ester is obtained in a 75% yield in the form of an oil, having the following characteristics: Rf =0.46 [hexane/ethyl acetate(6.5:3.5 by volume)].

reactant | 2-acetylthiomethyl-3-phenylbutanoic acid | C(C)(=O)SCC(C(=O)O)C(C)C1=CC=CC=C1 | C13H16O3S
reactant | norleucine benzyl ester | C(C1=CC=CC=C1)OC([C@@H](N)CCCC)=O | C13H19NO2
product | N-(2-acetylthiomethyl-1-oxo-3-phenylbutyl)norleucine benzyl ester | 75% yield | C(C1=CC=CC=C1)OC([C@@H](NC(C(C(C)C1=CC=CC=C1)CSC(C)=O)=O)CCCC)=O | C26H33NO4S
